US07384934B2
(S)-7-Chloro-10-[3-(2-methoxy-ethyl)-piperazin-1-yl]-2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulene
Combine 7-chloro-2-methyl-10-methylsulfanyl-4H-3-thia-4,9-diaza-benzo[f]azulene (42.74 g, 145 mmol) and (s)-2-(2-methoxy-ethyl)-piperazine (26.1 g, 181 mmol) in isopropyl alcohol (190 mL). Heat to 78-81° C. for 3-4 days, and then allow cooling to ambient temperature. Filter the solids and rinse with 1:1 MTBE/Ligroin (2×300 mL). Drying at 30° C. affords 39.1 g (69.5%) of the title compound: 1H NMR (500 MHz, DMSO-d6): δ 1.52 (bm, 2H), 2.27 (s, 3H), 2.45 (bt, 1H), 2.65 (bm, 2H), 2.75 (bt, 1H), 2.86 (bd, 1H), 3.20 (s, 3H), 3.38 (m, 2H), 3.80 (m, 1H), 3.90 (m, 1H), 6.33 (s, 1H), 6.67 (d, 1H), 6.75 (d, 1H), 6.82 (dd, 1H), 7.70 (s, 1H). 13C NMR (100 MHz, DMSO-d6): δ 15.07, 25.49, 33.28, 45.11, 47.36, 52.55, 57.92, 69.18, 118.38, 119.81, 122.29, 122.56, 126.41, 126.99, 128.43, 142.54, 142.90, 152.84, 157.82. MS (ES+) M+H calcd for C19H23ClN4OS 390.94; found 391.96.

reactant | 7-chloro-2-methyl-10-methylsulfanyl-4H-3-thia-4,9-diaza-benzo[f]azulene | 145 mmol, 42.74 g | ClC1=CC2=C(NC=3SC(=CC3C(=N2)SC)C)C=C1 | C13H11ClN2S2
reactant | (s)-2-(2-methoxy-ethyl)-piperazine | 181 mmol, 26.1 g | COCC[C@@H]1NCCNC1 | C7H16N2O
solvent | isopropyl alcohol | 190 mL | C(C)(C)O | C3H8O
product | (S)-7-Chloro-10-[3-(2-methoxy-ethyl)-piperazin-1-yl]-2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulene | 39.1 g, 69.5% | ClC1=CC2=C(NC=3SC(=CC3C(=N2)N2C[C@@H](NCC2)CCOC)C)C=C1 | C19H23ClN4OS
